US06683184B2
1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminocarbonyl]-4-phenylpiperazine
Phenyl N-(5,6-dimethyl-2-methoxypyrazin-3-yl)carbamate (350 mg, 1.28 mmol) and 1-phenylpiperazine (208 mg, 1.28 mmol) were dissolved in anhydrous tetrahydrofuran and thereto DBU (195 mg, 1.28 mmol) was added. The resulting mixture was stirred at room temperature for 2 hours and concentrated under the reduced pressure to remove the solvent, and purified by column chromatography to obtain the titled compound.

reactant | Phenyl N-(5,6-dimethyl-2-methoxypyrazin-3-yl)carbamate | 1.28 mmol, 350 mg | CC=1N=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=O | C14H15N3O3
reactant | 1-phenylpiperazine | 1.28 mmol, 208 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | DBU | 1.28 mmol, 195 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminocarbonyl]-4-phenylpiperazine | yield: 78.5% | CC=1N=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC=CC=C1 | C18H23N5O2
